### PR TITLE
Add Erdős Problem 1078 (K_r in balanced r-partite graphs of large minimum degree), link the formal proof

### LINKED ISSUE #6230: Erdős Problem 1078
### What is the Erdős problem?

https://www.erdosproblems.com/1078

Let $G$ be an $r$-partite graph with $n$ vertices in each part. If $G$ has minimum degree $\geq (r-\frac{3}{2}-o(1))n$ then $G$ must contain a $K_r$.

Status: proved (Haxell; sharp threshold $(r-1)n - \lceil sn/(2s-1)\rceil$, $s = \lfloor r/2 \rfloor$, by Haxell–Szabó). A formal proof exists in plby/lean-proofs (`Erdos1078.erdos_1078`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6230.

### What changed
Adds `FormalConjectures/ErdosProblems/1078.lean` with `IsPartite G` (no edges inside a part `{i} × Fin n` of `Fin r × Fin n`) and:
- `erdos_1078` (`research solved`, `answer(True)`): there is `ε(r) → 0` such that every `r`-partite graph with `n` vertices in each part and minimum degree `≥ (r - 3/2 - ε(r)) n` contains a `K_r` (Haxell [Ha01]; the `o(1)` is as `r → ∞`, since Bollobás–Erdős–Szemerédi showed `r - 3/2` is best possible in this sense). Linked to plby/lean-proofs `Erdos1078.erdos_1078` (Codex and GPT-5.6 Sol; single Mathlib-only file), which proves it with the explicit threshold `δ > (r - 3/2 - 1/(2(r-1))) n`.
- `erdos_1078.variants.haxell` (`δ ≥ (r - 3/2) n` suffices), `haxell_szabo` (the sharp threshold `δ > (r-1)n - ⌈sn/(2s-1)⌉`, `s = ⌊r/2⌋` [HaSz06]) and `haxell_szabo_sharp` (a `K_r`-free graph at the threshold).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos1078.erdos_1078` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (takes `ε(r) = 1/(4(r-1))`; a transversal `K_r` is an `r`-clique):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge1078

/-- plby's `graphDegree` is Mathlib's `degree`. -/
lemma graphDegree_eq {V : Type*} [Fintype V] [DecidableEq V] (G : SimpleGraph V)
    [DecidableRel G.Adj] (x : V) : Erdos1078Plby.graphDegree G x = G.degree x := by
  simp only [Erdos1078Plby.graphDegree, SimpleGraph.degree]
  congr 1
  ext y
  simp [Erdos1078Plby.neighbors]

/-- A transversal `K_r` is an `r`-clique. -/
lemma not_cliqueFree_of_hasTransversalKr {r n : ℕ} {G : SimpleGraph (Fin r × Fin n)}
    (h : Erdos1078Plby.HasTransversalKr G) : ¬ G.CliqueFree r := by
  classical
  obtain ⟨f, hf1, hf2⟩ := h
  intro hfree
  have hinj : Function.Injective f := fun i j hij => by
    have h1 := hf1 i
    have h2 := hf1 j
    rw [hij] at h1
    exact h1.symm.trans h2
  refine hfree (Finset.univ.map ⟨f, hinj⟩) ⟨?_, by simp⟩
  intro x hx y hy hxy
  obtain ⟨i, -, rfl⟩ := Finset.mem_map.1 hx
  obtain ⟨j, -, rfl⟩ := Finset.mem_map.1 hy
  exact hf2 i j fun h => hxy (by rw [h])

theorem erdos_1078_bridge : type_of% Erdos1078.erdos_1078 := by
  show True ↔ _
  simp only [true_iff]
  refine ⟨fun r => 1 / (4 * ((r : ℝ) - 1)), ?_, ?_⟩
  · have h : Tendsto (fun r : ℕ => 4 * ((r : ℝ) - 1)) atTop atTop :=
      (tendsto_natCast_atTop_atTop.atTop_add tendsto_const_nhds).const_mul_atTop (by norm_num)
    exact Tendsto.div_atTop (tendsto_const_nhds (x := (1 : ℝ))) h
  · intro r n hr hn G hpart hdeg
    classical
    refine not_cliqueFree_of_hasTransversalKr (Erdos1078Plby.erdos_1078 hr hn G hpart fun x => ?_)
    rw [graphDegree_eq]
    have hD := hdeg x
    obtain ⟨k, rfl⟩ : ∃ k, r = k + 2 := ⟨r - 2, by omega⟩
    have hk : (k + 2 - 1 : ℕ) = k + 1 := by omega
    rw [hk]
    set D := G.degree x with hDdef
    rcases le_or_gt ((k + 1) * n) D with hle | hlt
    · rw [Nat.sub_eq_zero_of_le hle]
      simp
      positivity
    · have hpos : (0 : ℝ) < (k : ℝ) + 2 - 1 := by linarith [(k.cast_nonneg : (0 : ℝ) ≤ k)]
      set e : ℝ := 1 / (4 * ((k : ℝ) + 2 - 1)) with he_def
      have he : e * ((k : ℝ) + 1) = 1 / 4 := by
        rw [he_def]; field_simp; ring
      have hn' : (0 : ℝ) < n := by exact_mod_cast hn
      push_cast at hD
      have h2 : 2 * ((k : ℝ) + 1) * (((k : ℝ) + 1) * n - D) ≤
          2 * ((k : ℝ) + 1) * ((1 / 2 + e) * n) := by
        apply mul_le_mul_of_nonneg_left _ (by positivity)
        linarith
      have h3 : 2 * ((k : ℝ) + 1) * ((1 / 2 + e) * n) = ((k : ℝ) + 1) * n + n / 2 := by
        linear_combination 2 * (n : ℝ) * he
      have key : (2 * ((k : ℝ) + 1) * (((k + 1) * n - D : ℕ) : ℝ)) < ((k : ℝ) + 2) * n := by
        rw [Nat.cast_sub hlt.le]
        push_cast
        linarith
      exact_mod_cast key

end Bridge1078
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1078»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1078.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+open Filter SimpleGraph
+
+namespace Erdos1078
+
+/--
+A graph on `Fin r × Fin n` is `r`-partite with parts `{i} × Fin n` (each of size `n`) if
+there are no edges inside a part.
+-/
+def IsPartite {r n : ℕ} (G : SimpleGraph (Fin r × Fin n)) : Prop :=
+  ∀ ⦃x y⦄, G.Adj x y → x.1 ≠ y.1
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1078.lean:46]: seems like this would be a definition used in many problems, consider moving to `FormalConjecturesForMathlib`

File: FormalConjectures/ErdosProblems/1078.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1078.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
